* Reductions circuit
V1 vi 0 PULSE(-1 1 0 20m 1u 1u 20m)
C0 vi v1 1u IC=0
R0 vi v1 1k
C1 v1 v10 5u IC=0
C1p v1 v10 5.1u IC=0
C2 v10 v2 1u IC=0
C3 v2 v3 1.5u IC=0
R1 v3 v4 5k
R1p v3 v4 5.1k
R2 v4 v5 1k
R3 v5 vo 1.5k
Rl vo  0 10k
.tran 0 80m 0 1.0u
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo)
.options plotwinsize=0
.backanno
.end
